US04259969
Preparation Of 2-(2-Hydroxy-4-methylpentyl)-3,5,6-trimethylpyrazine
The reaction of 13.6 grams (0.1 mole) of tetramethylpyrazine with 8.6 grams (0.1 mole) isovaleraldehyde was carried out in the manner described in Example II. The crude reaction mixture was washed with 50 milliliters of 6 N HCl, and the aqueous layer was separated and washed with two 50 milliliter portions of methylene chloride. The acidic solution was neutralized with sodium carbonate and the oil that separated was dissolved in methylene chloride. The organic solution was dried over sodium sulfate, and the solvent was evaporated to give 13.5 grams of an oil. Distillation of the oil yielded 7.7 grams (35%) of product, b.p. 98°-100° C./0.05 mm Hg.

reactant | tetramethylpyrazine | 0.1 mole, 13.6 grams | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
reactant | isovaleraldehyde | 0.1 mole, 8.6 grams | C(CC(C)C)=O | C5H10O
product | 2-(2-Hydroxy-4-methylpentyl)-3,5,6-trimethylpyrazine | 13.5 grams | OC(CC1=NC(=C(N=C1C)C)C)CC(C)C | C13H22N2O
